US04189485
6-Chloro-9-(2,6-dichlorobenzyl)purine (314 mg), 296 mg of isopropylamine and 25 ml of methanol were treated in the same manner as Example 2 and recrystallized from aqueous ethanol to obtain 276 mg (yield 79%) of 9-(2,6-dichlorobenzyl)-6-isopropylaminopurine as colorless needles melting at 109°-110° C.

reactant | 6-Chloro-9-(2,6-dichlorobenzyl)purine | 314 mg | ClC1=C2N=CN(C2=NC=N1)CC1=C(C=CC=C1Cl)Cl | C12H7Cl3N4
reactant | isopropylamine | 296 mg | C(C)(C)N | C3H9N
solvent | methanol | 25 ml | CO | CH4O
product | 9-(2,6-dichlorobenzyl)-6-isopropylaminopurine | 276 mg, yield 79% | ClC1=C(CN2C3=NC=NC(=C3N=C2)NC(C)C)C(=CC=C1)Cl | C15H15Cl2N5
